US07700655B2
(2) N-[3,5-Bis(trifluoromethyl)phenyl]-2-methoxy-5-sulfamoylbenzamide
Using 2-methoxy-5-sulfamoylbenzoic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 24 gave the title compound.

reactant | 2-methoxy-5-sulfamoylbenzoic acid | COC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C8H9NO5S
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-methoxy-5-sulfamoylbenzamide | Yield: 24.2% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)S(N)(=O)=O)OC)=O)(F)F | C16H12F6N2O4S
